US07253286B2
4-(4-Aminophenoxy)-7-(benzyloxy)-6-cyanoquinoline
Iron powder (0.6 g), ammoniumchloride (1.4 g), ethanol (100 ml) and water (30 ml) were added to the 7-benzyloxy-6-cyano-4-(4-nitrophenoxy)quinoline obtained in Production Example 5, and the mixture was stirred at 90° C. for 2.5 hours. The reaction system was returned to room temperature and then filtered with celite, the filtrate was subjected to liquid separation, and the organic layer was washed with water and saturated brine in that order, dried over sodium sulfate and then concentrated to dryness under reduced pressure to obtain 1.31 g of a crude product containing the target substance. The crude product was used directly for the following reaction. (Production Example 7).

reactant | ammoniumchloride | 1.4 g | [Cl-].[NH4+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | 7-benzyloxy-6-cyano-4-(4-nitrophenoxy)quinoline | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)[N+](=O)[O-])C#N | C23H15N3O4
catalyst | Iron | 0.6 g | [Fe] | Fe
solvent | water | 30 ml | O | H2O
product | 4-(4-Aminophenoxy)-7-(benzyloxy)-6-cyanoquinoline | 1.31 g | NC1=CC=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OCC2=CC=CC=C2)C=C1 | C23H17N3O2
